US09290485B2
a) tert-butyl (5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate
To a solution of ethyl pyrazole-4-carboxylate (1 g, 7.14 mmol) in EtOH/THF/water 2/1/1 (8 ml) was added LiOH monohydrate (329 mg, 7.84 mmol). Reaction mixture was stirred for 1 day at 80° C. 4M HCl in dioxane (1.962 ml, 7.85 mmol) was added to reaction mixture which was evaporated to dryness to afford the free carboxylic acid. This material (1.218 g, 7.14 mmol) was dissolved in DMF (30 ml), to which were added HBTU (4.06 g, 10.71 mmol), DIPEA (3.74 ml, 21.43 mmol) then tert-butyl (5-(aminomethyl)-4,6-dimethylpyridin-2-yl)carbamate (2.69 g, 10.71 mmol). Reaction mixture was stirred overnight at 23° C. Reaction mixture was diluted with ethyl acetate and water. Phases were separated and organic layer was washed with NaHCO3 sat. solution and brine. Organic layer was dried over sodium sulfate, filtered and evaporated to afford the crude material, which was purified by normal phase chromatography (silica gel, 100% ethyl acetate) followed by reverse phase chromatography (C18, acetonitrile/water) to afford the title compound. HPLC (Method G) Rt=1.245 min, MS (Method V) [M+H]+=346.2.

reactant | HBTU | 10.71 mmol, 4.06 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 21.43 mmol, 3.74 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyl (5-(aminomethyl)-4,6-dimethylpyridin-2-yl)carbamate | 10.71 mmol, 2.69 g | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl (5-((1H-pyrazole-4-carboxamido)methyl)-4,6-dimethylpyridin-2-yl)carbamate | N1N=CC(=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C17H23N5O3
